US04547494
16.0 g of ethyl (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetate are added to a mixture of 160 ml of methanol and 30 ml of an aqueous 2N sodium hydroxide solution, and the mixture is refluxed for 30 minutes under heating. After cooling, crystalline precipitates are collected by filtration and washed with methanol. The crystals are suspended in 30 ml of water. Then, the suspension is adjusted to pH 3 with 2N hydrochloric acid. Crystalline precipitates are collected by filtration and dried. 11.4 g of (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid are obtained.

reactant | ethyl (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetate | 16.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1C(NCC1)=O | C30H28N4O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 160 ml | CO | CH4O
product | (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid | 11.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC1C(NCC1)=O | C28H24N4O4S
